US03940421
By reacting 1,2-dihydro-9-hydroxy-7-(3-methyl-2-octyl)-4-oxo-4H-thieno[2,3-c][1]benzopyran with n-hexylmagnesium bromide, using the manipulative procedure described in Example 8, there is obtained 4,4-di(1-hexyl)-1,2-dihydro-9-hydroxy-7-(3-methyl-2-octyl)-4H-thieno[2,3-c][1]benzopyran.

reactant | 1,2-dihydro-9-hydroxy-7-(3-methyl-2-octyl)-4-oxo-4H-thieno[2,3-c][1]benzopyran | OC1=CC(=CC2=C1C1=C(C(O2)=O)SCC1)C(C)C(CCCCC)C | C20H26O3S
reactant | n-hexylmagnesium bromide | C(CCCCC)[Mg]Br
product | 4,4-di(1-hexyl)-1,2-dihydro-9-hydroxy-7-(3-methyl-2-octyl)-4H-thieno[2,3-c][1]benzopyran | C(CCCCC)C1(OC2=C(C3=C1SCC3)C(=CC(=C2)C(C)C(CCCCC)C)O)CCCCCC | C32H52O2S
